US07919504B2
5-(5-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)-3-(propan-2-ylidene)indolin-2-one.
Example 2 (5-(5-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)indolin-2-one) (40 mg, 46 μmol) was dissolved in 1 mL of anhydrous acetone. To the resulting solution was added 2.0 mL of 2.0M ammonia in MeOH. The resulting mixture was stirred for one hour. After removing the solvent, the title compound was obtained as a white solid (20 mg, 48%). LCMS (API-ES) m/z (%): 474.1 (100%, M++H); 1H NMR (400 MHz, CD3OD) δ ppm 2.45 (s, 3H) 2.59 (s, 3H) 3.06-3.18 (m, 2H) 3.54-3.65 (m, 1H) 3.66-3.76 (m, 1H) 3.86-3.96 (m, 1H) 6.94 (d, J=8.22 Hz, 1H) 7.49-7.57 (m, 3H) 7.62-7.70 (m, 2H) 8.00 (s, 1H).

reactant | 5-(5-((S)-2-amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)indolin-2-one | N[C@H](CNC1=NN=C(S1)C=1C=C2CC(NC2=CC1)=O)CC1=CC=C(C=C1)C(F)(F)F | C20H18F3N5OS
reactant | ammonia | 2.0M, 2.0 mL | N | H3N
reactant | acetone | 1 mL | CC(=O)C | C3H6O
solvent | MeOH | CO | CH4O
product | 5-(5-((S)-2-Amino-3-(4-(trifluoromethyl)phenyl)propylamino)-1,3,4-thiadiazol-2-yl)-3-(propan-2-ylidene)indolin-2-one | N[C@H](CNC1=NN=C(S1)C=1C=C2C(C(NC2=CC1)=O)=C(C)C)CC1=CC=C(C=C1)C(F)(F)F | C23H22F3N5OS
